US07342032B2
Part B; 5-(4-Chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylic acid (1.00 gram, 2.6 mmol) is suspended in anhydrous acetonitrile (20 mL) under a nitrogen atmosphere at room temperature. Diisopropylethylamine (DIPEA) (1.36 mL, 7.8 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) (1.08 gram, 2.85 mmol) and O-tert-butylhydroxylamine.HCl (0.35 gram, 25.1 mmol) are successively added and the resulting mixture is stirred overnight at room temperature. The resulting mixture is concentrated in vacuo and dichloromethane is added. The resulting solution is successively washed with water and brine, dried over MgSO4, filtered and evaporated in vacuo. Subsequent flash chromatography (ethyl acetate:petroleum ether (40-60)=1:3 (v/v)) gives N-(t-butoxy)-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxamide (0.60 gram, 51% yield) as a white foam. 1H-NMR (400 MHz, CDCl3): δ 9.20 (s, 1H), 7.47 (t, J=2 Hz, 1H), 7.25-7. (m, 4H), 7.14 (dt, J=8 Hz, J=2 Hz, 2H), 1.36 (s, 9H).

reactant | 5-(4-Chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylic acid | 2.6 mmol, 1.00 gram | ClC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H8Cl3NO2S
reactant | Diisopropylethylamine | 7.8 mmol, 1.36 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.85 mmol, 1.08 gram | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | O-tert-butylhydroxylamine | C(C)(C)(C)ON | C4H11NO
reactant | HCl | 25.1 mmol, 0.35 gram | Cl | ClH
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(t-butoxy)-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxamide | 0.60 gram, 51% yield | C(C)(C)(C)ONC(=O)C=1SC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C20H17Cl3N2O2S
